US06140501
III.1.A. 13.9 g (0.05 mol) of 2-(4-benzyl-1-piperazinyl)ethoxyacetamide are dissolved in 15 ml of water in a 100 ml three-necked round-bottomed flask fitted with a water-cooled condenser and a mechanical stirrer. 31 ml (0.375 mol) of aqueous 37% hydrochloric acid solution are added. The mixture is heated at 60° C. for 1 hour. The water is removed on a rotary evaporator under reduced pressure at 60° C. The white solid obtained is taken up in 75 ml of acetone and is stirred for 1 hour at room temperature. The mixture is filtered and 19.7 g of 2-(4-benzyl-1-piperazinyl)ethoxyacetic acid dihydrochloride are obtained in the form of white crystals.

reactant | 2-(4-benzyl-1-piperazinyl)ethoxyacetamide | 0.05 mol, 13.9 g | C(C1=CC=CC=C1)N1CCN(CC1)CCOCC(=O)N | C15H23N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | water | 15 ml | O | H2O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 2-(4-benzyl-1-piperazinyl)ethoxyacetic acid dihydrochloride | 19.7 g | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CCOCC(=O)O | InChI=1S/C15H22N2O3.2ClH/c18-15(19)13-20-11-10-16-6-8-17(9-7-16)12-14-4-2-1-3-5-14;;/h1-5H,6-13H2,(H,18,19);2*1H
